US05552551
3-Hydroxy-2-phenyl-4H-1-benzopyridin-4-one
To a solution of 0.23 g (0.96 mmol) 3-hydroxy-2-phenyl-2H, 3H, 4H-1-benzopyridin-4-one, 0.94 g NaOH (in 4 mL water) and 35 mL MeOH was added 15 mL of H2O2 over ice bath. The yellow solution was then stirred at room temperature for 4 hours before the mixture was poured into 300 mL of water. The resulting mixture was extracted with CH2Cl2 and the solvent was removed from the organic phase. The resulting residue was recrystallized form toluene which gave the desired product in 17% yield. MP: 260°-262° C. Quantum yield (relative to 3-hydroxyflavone in CH2Cl2) 1.4. Extinction coefficient εmax (M-1 cm-1) 10,000. λmax (abs)=343 nm and λmax (em)=510 nm.

reactant | 3-hydroxy-2-phenyl-2H, 3H, 4H-1-benzopyridin-4-one | 0.96 mmol, 0.23 g | OC1C(NC2=C(C1=O)C=CC=C2)C2=CC=CC=C2 | C15H13NO2
reactant | NaOH | 4 mL, 0.94 g | [OH-].[Na+]
reactant | MeOH | 35 mL | CO | CH4O
reactant | H2O2 | 15 mL | OO | H2O2
solvent | water | 300 mL | O | H2O
product | 3-Hydroxy-2-phenyl-4H-1-benzopyridin-4-one | 17% yield | OC1C(=NC2=C(C1=O)C=CC=C2)C2=CC=CC=C2 | C15H11NO2
